US06355636B1
To 2.0 g of 4-chloro-6-fluoro-[1.7]naphthyridine-3-carbonitrile in 50 mL of methanol was added 2.2 g of 4-phenoxyaniline. After stirring the reaction under an inert atmosphere for 18 hr, the reaction mixture was poured into a mixture of brine and saturated aqueous sodium bicarbonate and the resultant crystals filtered and washed with water. The product was then recrystallized from chloroformhexanes. Drying in vacuo yielded 2.35 g (69%) of 6-fluoro-4-(4-phenoxy-phenylamino)-[1.7]naphthyridine-3-carbonitrile as yellow needles: melting point 211-213° C.; mass spectrum (m/e): M+H 356.9.

reactant | 4-chloro-6-fluoro-[1.7]naphthyridine-3-carbonitrile | 2.0 g | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | 4-phenoxyaniline | 2.2 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 6-fluoro-4-(4-phenoxy-phenylamino)-[1.7]naphthyridine-3-carbonitrile | 2.35 g, 69% | FC=1C=C2C(=C(C=NC2=CN1)C#N)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C21H13FN4O
